US04863958
Preparation of 4-hydroxy-3-methyl-5-propyl-2-(4-pyridylmethyl)-benzofuran
A mixture of 4 hydroxy 3 methyl 5 propyl-2 -(isonicotinoyl)-benzofuran (1.5 g; 5.2mmoles), potassium hydroxide pellets (2 g; 37mmoles), ethylene glycol (25 ml) and 99% hydrazine (0.8 ml) was heated with stirring at 130° C. for 1 hour and at 155° C. for 2 hours. The mixture was cooled and acidified with 20% citric acid solution. The mixture was extracted using 20% ethyl acetate in diethyl ether. The organic layer was dried (Na2SO4), filtered, concentrated, and chromatographed to obtain 1 g of the title compound which was then recrystallized from ethyl acetate.

reactant | hydroxy 3 methyl 5 propyl-2 -(isonicotinoyl)-benzofuran | 5.2mmoles, 1.5 g | OC1=C(C=CC2=C1C(=C(O2)C(C2=CC=NC=C2)=O)C)CCC | C18H17NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine | 0.8 ml | NN | H4N2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
product | 4-hydroxy-3-methyl-5-propyl-2-(4-pyridylmethyl)-benzofuran | 1 g | OC1=C(C=CC2=C1C(=C(O2)CC2=CC=NC=C2)C)CCC | C18H19NO2
